US07592358B2
12.1c. 2-(4-iodo-2-isopropenylphenoxy)ethanol
The product was prepared analogously to Example 11.1b starting from 1-[2-(2-hydroxyethoxy)-5-iodophenyl]ethanone and using potassium tert-butoxide as base. Yield: 2.50 g (43% of theoretical); C11H13IO2 (M=304.124); calc.: molpeak (M+H)+: 305; found: molpeak (M+H)+: 305; HPLC-MS: 5.65 minutes (method B).

reactant | 1-[2-(2-hydroxyethoxy)-5-iodophenyl]ethanone | OCCOC1=C(C=C(C=C1)I)C(C)=O | C10H11IO3
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
product | 2-(4-iodo-2-isopropenylphenoxy)ethanol | IC1=CC(=C(OCCO)C=C1)C(=C)C | C11H13IO2
